US07230011B2
5-Methoxy-7-methyl-3-(1-methylpiperidin-4-yl)-1H-indole
To a suspension of 5-methoxy-7-methyl-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole (0.1 mole, 24.71 g) in tetrahydrofuran (295 mL) at room temperature was added sodium borohydride (0.2 mole, 7.29 g). Trifluoroacetic acid (0.3 mole, 32.97 g) was added over a 15 minute period. The reaction was stirred at room temperature for 1.5 hours. To the heavy suspension was added 5N hydrochloric acid (200 mL). The resulting solution was stirred at room temperature for 1.5 hours. To the reaction was added ethyl acetate (500 mL) then the pH was adjusted to >12 with 50% wt/wt sodium hydroxide. The phases were separated and the aqueous phase was extracted with ethyl acetate (2×500 mL). The organic phases were combined, dried over sodium sulfate then filtered. The filtrate was filtered through a pad of silica (height of silica=7.0 cm) in a scinter glass funnel (inner diameter of funnel=14.5 cm). After the first fraction was collected the next two fractions were eluted with chloroform (1.2 L each). The remaining fractions were eluted with 90:10:1 chloroform:methanol:ammonium hydroxide (1.2 L fractions collected). The desired fractions were combined and concentrated in vacuo to afford 18.94 g (76%) of the title compound as a white solid: mass spectrum (ion spray): m/z=259 (M+1); 1H NMR (DMSOd6): 7.02 (d, 1H), 6.81 (d, 1H), 6.53 (d, 1H), 3.74 (s, 3H), 2.84 (m, 2H), 2.62 (m, 1H), 2.39 (s, 3H), 2.23 (s, 3H), 2.06 (m, 2H), 1.90 (m, 2H), 1.67 (m, 2H).

reactant | 5-methoxy-7-methyl-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 0.1 mole, 24.71 g | COC=1C=C2C(=CNC2=C(C1)C)C=1CCN(CC1)C | C16H20N2O
reactant | sodium borohydride | 0.2 mole, 7.29 g | [BH4-].[Na+]
reactant | Trifluoroacetic acid | 0.3 mole, 32.97 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrochloric acid | 5N, 200 mL | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 295 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | 5-Methoxy-7-methyl-3-(1-methylpiperidin-4-yl)-1H-indole | 18.94 g, 76% | COC=1C=C2C(=CNC2=C(C1)C)C1CCN(CC1)C | C16H22N2O
